* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJU77004
*CMOS OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJU77004 OUT1 -IN1 +IN1 V+ +IN2 -IN2 OUT2
+ OUT3 -IN3 +IN3 V- +IN4 -IN4 OUT4
X_U1 +IN1 -IN1 V+ V- OUT1 NJU77004_s
X_U2 +IN2 -IN2 V+ V- OUT2 NJU77004_s
X_U3 +IN3 -IN3 V+ V- OUT3 NJU77004_s
X_U4 +IN4 -IN4 V+ V- OUT4 NJU77004_s
.ends NJU77004
*$
* connections:          non-inverting input
*                       | inverting input
*                       | | positive power supply
*                       | | | negative power supply
*                       | | | | output
*                       | | | | |
.subckt NJU77004_s      1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
M1 11 2 13 13 PMOS1 
M2 12 NET1 14 14 PMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 4 {RD1}
RD2 12 4 {RD2}
RS2 10 14 {RS2}
RS1 10 13 {RS1}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 {VS}
VD 3 18 {VD}

.MODEL DMOD1 D(T_MEASURED= 25 IS= 6.02E-32)
.MODEL DMOD2 D(T_MEASURED= 25 IS= 8.00E-16)
.MODEL PMOS1 PMOS(LEVEL= 1 VTO= -4.89E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX= 1.30E-08 U0= 1.51E+02)
.MODEL PMOS2 PMOS(LEVEL= 1 VTO= -4.89E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX= 1.30E-08 U0= 1.51E+02)
*
.PARAM
+ C1   = 5.50E-11
+ C2   = 1.64E-10
+ CS   = 0.00E+00
+ GCM  = 1.19E-10
+ GA   = 1.19E-06
+ GB   = 33549.00
+ GC   = 19288.67672
+ ITL  = 1.15E-07
+ RS   = 1.74E+09
+ RD1  = 838725.07
+ RD2  = 838725.07
+ RC   = 5.18E-05
+ RS1  = 674048.78
+ RS2  = 674048.78
+ RO1  = 50
+ RO2  = 25
+ RP   = 4.35E+07
+ VD   = 0.8581
+ VS   = 0.8581705
+ VOS  = 0.02027953E-03
+ VRD  = 2.50E-01
+ L_VAL= 8.00E-07
+ W_VAL= 6.40E-06

.ends NJU77004_s
*$
